US04587236
3.5 g of 21-acetoxy-6α-methyl-17-propionyloxy-11β-trifluoroacetoxy-1,4-pregnadiene-3,20-dione is stirred in 80 ml of methanol and 4.2 ml of triethylamine for 4 hours at room temperature. The crude product is purified on 600 g of silica gel with a methylene chloride-acetone gradient (0-15% acetone), thus isolating 2.3 g of 21-acetoxy-11β-hydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione.

reactant | 21-acetoxy-6α-methyl-17-propionyloxy-11β-trifluoroacetoxy-1,4-pregnadiene-3,20-dione | 3.5 g | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)OC(C(F)(F)F)=O)=O)C)OC(CC)=O)=O | C29H35F3O8
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 80 ml | CO | CH4O
product | 21-acetoxy-11β-hydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione | 2.3 g | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(CC)=O)=O | C27H36O7
